US05013863
A solution of sodium ethoxide in absolute ethanol (0.48 g of sodium metal in 15 ml of absolute ethanol) is cooled to 0° under nitrogen or argon. A solution of 2.72 g of acrylonitrile and 12.2 g of di-n-propyloxymethylphosphonous acid n-propylester in 50 ml of absolute ethanol is added at such a rate that the temperature does not exceed 5°. After the addition is completed, the solution is allowed to warm to room temperature and stirred overnight. After addition of 1.22 g of glacial acetic acid, the reaction mixture is concentrated in vacuo. The residue is partitioned between ethyl acetate and water and the organic phase separated. After drying over anhydrous magnesium sulphate the solvent is evaporated in vacuo to afford an oil. Chromatography on silica-gel yields ethyl 2-cyanoethyl(di-n-propyloxymethyl)phosphinate as a colourless oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | acrylonitrile | 2.72 g | C(C=C)#N | C3H3N
reactant | di-n-propyloxymethylphosphonous acid n-propylester | 12.2 g | C(CC)OP(O)C(OCCC)OCCC | C10H23O4P
reactant | acetic acid | 1.22 g | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml, 0.48 g | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | ethyl 2-cyanoethyl(di-n-propyloxymethyl)phosphinate | C(#N)CCP(OCC)(=O)C(OCCC)OCCC | C12H24NO4P
